US06667336B2
(Z)-N-(1-(4-(4-Isopropylphenyl)phenyl)-1-(3-thienyl)prop-1-en-3-yl)sarcosine, t-butyl ester F(i) (18.62 g, 40.3 mmol) was dissolved in 96% formic acid (200 mL). The solution was warmed at 40° C. overnight, then concentrated. The residue was co-evaporated twice with CH2Cl2. Column chromatography (2-15% MeOH/CH2Cl2) provided a pale yellow solid. Trituration with methanol (MeOH) provided pure (Z)-N-(1-(4-(4-isopropylphenyl)phenyl)-1-(3-thienyl)prop-1-en-3-yl)sarcosine G(i) (11.38 g, 70%) as a white solid. 1H NMR (300 MHz, methanol-d4) 1.23 (d, 6H), 2.47 (s, 3H), 2.92 (hept, 1H), 3.26 (s, 2H), 3.50 (d, 2H), 6.22 (t, 1H), 6.94 (d, 1H), 7.32 (d, 4H), 7.46 (d, 1H), 7.57-7.65 (m, 5H).

reactant | (Z)-N-(1-(4-(4-Isopropylphenyl)phenyl)-1-(3-thienyl)prop-1-en-3-yl)sarcosine, t-butyl ester | C(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/CN(C)CC(=O)OC(C)(C)C)/C1=CSC=C1 | C29H35NO2S
reactant | methanol | CO | CH4O
solvent | formic acid | 200 mL | C(=O)O | CH2O2
product | (Z)-N-(1-(4-(4-isopropylphenyl)phenyl)-1-(3-thienyl)prop-1-en-3-yl)sarcosine | C(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/CN(C)CC(=O)O)/C1=CSC=C1 | C25H27NO2S
